US08048909B2
5-Phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carbaldehyde
Using [5-phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrol-3-yl]methanol (2.73 g), tetra-n-propylammonium perruthenate (142 mg), N-methylmorpholine N-oxide (1.04 g) and molecular sieves 4A powder (1.5 g), a procedure as in Reference Example 6 was performed to give the title compound as a pale-red oil (yield 1.33 g, 47%).

reactant | [5-phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrol-3-yl]methanol | 2.73 g | C1(=CC=CC=C1)C1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)CO)CCC | C20H21NO3S
reactant | N-methylmorpholine N-oxide | 1.04 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | tetra-n-propylammonium perruthenate | 142 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-Phenyl-1-(phenylsulfonyl)-4-propyl-1H-pyrrole-3-carbaldehyde | yield 1.33 g, 47% | C1(=CC=CC=C1)C1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C=O)CCC | C20H19NO3S
